US06207708B1
N6-[1-(hydroxyimino)-2,2,2-trifluoroethyl]-L-lysine, Dihydrochloride
α-Boc-L-lysine is reacted with chlorotrifluoroacetaldoxime (J. Org. Chem. 49, (1984) 919-922) as described in Example 1 to afford the title compound.

reactant | α-Boc-L-lysine | C(=O)(OC(C)(C)C)[C@](N)(CCCCN)C(=O)O | C11H22N2O4
reactant | chlorotrifluoroacetaldoxime | ClON=CC(F)(F)F | C2HClF3NO
product | N6-[1-(hydroxyimino)-2,2,2-trifluoroethyl]-L-lysine, Dihydrochloride | Cl.Cl.ON=C(C(F)(F)F)NCCCC[C@H](N)C(=O)O | InChI=1S/C8H14F3N3O3.2ClH/c9-8(10,11)7(14-17)13-4-2-1-3-5(12)6(15)16;;/h5,17H,1-4,12H2,(H,13,14)(H,15,16);2*1H/t5-;;/m0../s1
